US09169254B2
A solution of 8-{(E)-2-[4-(4-hydroxy-4-methyl-piperidine-1-carbonyl)-2,6-dimethyl-phenyl]-ethenesulfonyl}-2-thioxo-1,3,8-triaza-spiro[4.5]decan-4-one (25 mg, 0.048 mmol), 3,4-dichlorophenylboronic acid (27.5 mg, 0.144 mmol), palladium tetrakistriphenylphosphine (11.1 mg, 0.0096 mmol) and CuTC (36.8 mg, 0.192 mmol) in NMP (0.1 mL) was heated with stirring at 80° C. for 30 minutes in a nitrogen atmosphere. After cooling to room temperature, N-acetylcysteine (33 mg, 0.2 mmol) was added to the reaction mixture. The reaction mixture was purified by silica gel column chromatography (NH silica gel, methylene chloride:methanol=100:0→90:10) to give 2-(3,4-dichloro-phenyl)-8-{(E)-2-[4-(4-hydroxy-4-methyl-piperidine-1-carbonyl)-2,6-dimethyl-phenyl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one as a white solid (13.4 mg, 44%).

reactant | 8-{(E)-2-[4-(4-hydroxy-4-methyl-piperidine-1-carbonyl)-2,6-dimethyl-phenyl]-ethenesulfonyl}-2-thioxo-1,3,8-triaza-spiro[4.5]decan-4-one | 0.048 mmol, 25 mg | OC1(CCN(CC1)C(=O)C1=CC(=C(C(=C1)C)/C=C/S(=O)(=O)N1CCC2(C(NC(N2)=S)=O)CC1)C)C | C24H32N4O5S2
reactant | 3,4-dichlorophenylboronic acid | 0.144 mmol, 27.5 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | N-acetylcysteine | 0.2 mmol, 33 mg | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | NMP | 0.1 mL | CN1CCCC1=O | C5H9NO
catalyst | CuTC | 0.192 mmol, 36.8 mg | C1=CSC(=C1)C(=O)[O-].[Cu+]
product | 2-(3,4-dichloro-phenyl)-8-{(E)-2-[4-(4-hydroxy-4-methyl-piperidine-1-carbonyl)-2,6-dimethyl-phenyl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 13.4 mg, 44% | ClC=1C=C(C=CC1Cl)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C2=C(C=C(C=C2C)C(=O)N2CCC(CC2)(C)O)C | C30H34Cl2N4O5S
